### PR TITLE
[Merged by Bors] - feat(GroupTheory/Nilpotent): a nontrivial nilpotent group has a nontrivial center

### PR DESCRIPTION
**Pull request by SnirBroshi**
and a few `upperCentralSeries`/`lowerCentralSeries` API lemmas.

---
I kinda thought this would have a more elementary proof, but that's what I found.
This is the proof without `grind`:
```lean
theorem Group.IsNilpotent.center_ne_bot [Nontrivial G] [IsNilpotent G] : center G ≠ ⊥ := by
  rw [← upperCentralSeries_zero, ← upperCentralSeries_one]
  intro h
  rw [upperCentralSeries.eq_top one_ne_zero h, upperCentralSeries_zero] at h
  exact top_ne_bot h
```

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 1]
```diff
@@ -938,6 +938,13 @@ lemma upperCentralSeries.card_image_eq_of_le_nilpotencyClass {a : ℕ}
 
 end Subgroup
 
+variable (G) in
+@[to_additive]
+theorem Group.IsNilpotent.center_ne_bot [Nontrivial G] [IsNilpotent G] : center G ≠ ⊥ := by
+  rw [← upperCentralSeries_zero, ← upperCentralSeries_one]
+  have ⟨n, hn⟩ := IsNilpotent.nilpotent G
+  grind [bot_ne_top, upperCentralSeries_zero, upperCentralSeries.eq_ge_of_eq_succ]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Nilpotent.lean]: Does `Subgroup.upperCentralSeries.eq_top` give a smoother proof?

Comment (SnirBroshi) [reply Mathlib/GroupTheory/Nilpotent.lean]: Somewhat better, yes

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 2]
```diff
@@ -938,6 +940,12 @@ lemma upperCentralSeries.card_image_eq_of_le_nilpotencyClass {a : ℕ}
 
 end Subgroup
 
+variable (G) in
+@[to_additive]
+theorem Group.IsNilpotent.center_ne_bot [Nontrivial G] [IsNilpotent G] : center G ≠ ⊥ := by
+  rw [← upperCentralSeries_zero, ← upperCentralSeries_one]
+  grind [upperCentralSeries.eq_top, upperCentralSeries_zero, top_ne_bot]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Nilpotent.lean]: This avoids the grind:
```suggestion
theorem Group.IsNilpotent.center_ne_bot [Nontrivial G] [IsNilpotent G] : center G ≠ ⊥ :=
  .symm <| by simpa using mt (upperCentralSeries.eq_top zero_ne_one) (by simp)
```

Comment (tb65536) [reply Mathlib/GroupTheory/Nilpotent.lean]: (could also do `by simpa [eq_comm] ...`)

**Comment by SnirBroshi** [comment]
Thanks!
I also added some `upperCentralSeries G n = ⊤` / `lowerCentralSeries G n = ⊥` lemmas, which are only slightly related but fit in the same file. (I could split if it's strange)

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by SnirBroshi** [comment]
Sorry, updated to account for subgroup-valued `lowerCentralSeries` (#39844)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
